US04431808
A solution of 45 g of 2-chloro-5-trifluoromethylbenzyl chloride (B. Pecherer, U.S. Pat. No. 3,465,051; Chem.Abstr. 71, 123 885, 1969) and 37.6 g of 2-hydroxythiophenol (cf.Example 18, reference given) in 800 ml of dimethylformamide is treated with 27.2 g of potassium carbonate and the mixture stirred for 3 hours in a nitrogen atmosphere at a room temperature. Further 30 g of potassium carbonate and 3 g of copper are then added and the mixture refluxed for 12 hours. Dimethylformamide is distilled off in vacuo and the residue separated between water and benzene. It is then filtered, the benzene layer of the filtrate separated, dried with potassium carbonate and processed by distillation. There are obtained 40.2 g of (73%) 2-trifluoromethyl-11H-dibenz (b,f)-1,4-oxathiepin boiling at 135°-137° C./0.1 kPa. The distillate crystallizes from petroleum ether and the pure 1,4-oxathiepin (cf. Example 16) in 30 ml of benzene was added dropwise for 1 hour to a refluxing solution of 3.9 g of ethyl chloroformate in 15 ml of benzene. The mixture was refluxed for 1.5 hours and, after cooling washed with water, with 10% sulfuric acid and again with water. It was then dried with magnesium sulfate and evaporated. The residue (the crude carbamate) was dissolved in 10 ml of ethanol and the solution treated with 9.0 g of potassium hydroxide. Then, the mixture was refluxed for 2 hours in a bath having a temperature of 130° C. It was diluted with water and extracted with benzene. From the benzene solution the basic product was reextracted by shaking with excessive 10% hydrochloric acid. The aqueous layer together with the oily hydrochloride were separated, made alkaline with aqueous ammonia and the released base extracted with benzene. The extract was dried with potassium carbonate and evaporated. There were obtained 4.0 g of an oily base which was neutralized with 1.9 g of oxalic acid in acetone. The hydrogen oxalate crystallized in a yield of 5.15 g was recrystallized from aqueous ethanol and melted at 210°-211° C.

reactant | 2-chloro-5-trifluoromethylbenzyl chloride | 45 g | ClC1=C(CCl)C=C(C=C1)C(F)(F)F | C8H5Cl2F3
reactant | 2-hydroxythiophenol | 37.6 g | OC1=C(C=CC=C1)S | C6H6OS
reactant | potassium carbonate | 27.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
catalyst | copper | 3 g | [Cu] | Cu
product | 2-trifluoromethyl-11H-dibenz (b,f)-1,4-oxathiepin | 40.2 g, 73% | FC(C=1C=CC2=C(CSC3=C(O2)C=CC=C3)C1)(F)F | C14H9F3OS
